US07232819B2
Step 2: Methyl-5,6-bis(benzoyloxy)-2-[bromo(phenyl)methyl]pyrimidine-4-carboxylate (B-7)
A solution of methyl-5,6-bis(benzoyloxy)-2-benzylpyrimidine-4-carboxylate (B-6) (1.0 eq.) in carbon tetrachloride was heated up to 90° C. under nitrogen; N-bromosuccinimide (1.0 eq.) and benzoyl peroxide (0.1 eq.) were added as dry powder and mixture was refluxed for 3 h. After cooling, succinimide was removed by filtration and the filtrate was concentrated and purified by flash column chromatography (SiO2, 85/15 v/v petroleum ether/ ethyl acetate as eluent) to give the title product (B-7).

reactant | methyl-5,6-bis(benzoyloxy)-2-benzylpyrimidine-4-carboxylate | 1.0 eq. | COC(=O)C1=NC(=NC(=C1OC(C1=CC=CC=C1)=O)OC(C1=CC=CC=C1)=O)CC1=CC=CC=C1 | C27H20N2O6
reactant | N-bromosuccinimide | 1.0 eq. | BrN1C(CCC1=O)=O | C4H4BrNO2
reactant | benzoyl peroxide | 0.1 eq. | C(C1=CC=CC=C1)(=O)OOC(C1=CC=CC=C1)=O | C14H10O4
solvent | carbon tetrachloride | C(Cl)(Cl)(Cl)Cl | CCl4
product | Methyl-5,6-bis(benzoyloxy)-2-[bromo(phenyl)methyl]pyrimidine-4-carboxylate | COC(=O)C1=NC(=NC(=C1OC(C1=CC=CC=C1)=O)OC(C1=CC=CC=C1)=O)C(C1=CC=CC=C1)Br | C27H19BrN2O6
